US08895745B2
Procedure U4: 1-(2-Chloro-pyridin-4-yl)-3-(2,2,2-trifluoro-ethyl)-urea
To 4-nitrophenyl chloroformate (2.91 g, 14.5 mmol) in THF (35 mL) was added 4-amino-2-chloropyridine (2.08 g, 16.2 mmol) and the reaction stirred at 60° C. for 2 hours. After cooling to room temperature 2,2,2-trifluoroethylamine (1.26 mL, 15.9 mmol) and DIPEA (7.5 mL, 43.4 mmol) were added and the reaction stirred at room temperature for 18 hours. The reaction was concentrated in vacuo and the residue partitioned between 1M NaOH (40 mL) and EtOAc (2×50 mL). The combined organic phases were washed with brine (60 mL), dried over MgSO4, filtered and concentrated in vacuo. The resulting yellow solid was suspended in CH2Cl2, filtered and washed with CH2Cl2 to give the product as a pale yellow solid (1.72 g).

reactant | 4-nitrophenyl chloroformate | 14.5 mmol, 2.91 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 4-amino-2-chloropyridine | 16.2 mmol, 2.08 g | NC1=CC(=NC=C1)Cl | C5H5ClN2
reactant | 2,2,2-trifluoroethylamine | 15.9 mmol, 1.26 mL | FC(CN)(F)F | C2H4F3N
reactant | DIPEA | 43.4 mmol, 7.5 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | 1-(2-Chloro-pyridin-4-yl)-3-(2,2,2-trifluoro-ethyl)-urea | 1.72 g | ClC1=NC=CC(=C1)NC(=O)NCC(F)(F)F | C8H7ClF3N3O
